US06620841B1
To 5-(4-fluorobenzyl)-2-furan carboxylic acid (450 mg, 2 mmol) were added thionylchloride (1 ml, 13.7 mmol) and DMF (0.025 ml). The mixture was stirred for 30 minutes at room temperature. The excess amount of thionylchloride was evaporated. The precipitated residue was washed with n-hexane to give crude 5-(4-fluorobenzyl)-2-furan carboxylic acid chloride (480 mg).

reactant | 5-(4-fluorobenzyl)-2-furan carboxylic acid | 2 mmol, 450 mg | FC1=CC=C(CC2=CC=C(O2)C(=O)O)C=C1 | C12H9FO3
reactant | thionylchloride | 13.7 mmol, 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.025 ml | CN(C)C=O | C3H7NO
product | 5-(4-fluorobenzyl)-2-furan carboxylic acid chloride | 480 mg | FC1=CC=C(CC2=CC=C(O2)C(=O)Cl)C=C1 | C12H8ClFO2
